US06171664B2
Under a nitrogen atmosphere, 425.5 g of ethyl 4-cyclohexanecarboxylate and 856.7 g of methoxymethyltriphenylphosphonium chloride were suspended in 2.2 l of methyl tert-butyl ether. A solution of 280.4 g of potassium tert-butoxide in 400 ml of tetrahydrofuran was then added dropwise to the stirred suspension. The suspension was then stirred overnight at RT, and the next day 430 ml of 10% hydrochloric acid were added and the mixture was warmed at 55° C. for 1 hour. 50 ml of water were then added to the suspension. Conventional work-up gave ethyl 4-formylcyclohexanecarboxylate.

reactant | ethyl 4-cyclohexanecarboxylate | 425.5 g | C1CCC(CC1)C(=O)OCC | C9H16O2
reactant | methoxymethyltriphenylphosphonium chloride | 856.7 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 280.4 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 430 ml | Cl | ClH
solvent | methyl tert-butyl ether | 2.2 l | C(C)(C)(C)OC | C5H12O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | ethyl 4-formylcyclohexanecarboxylate | C(=O)C1CCC(CC1)C(=O)OCC | C10H16O3
